US06107458
A suspension of 4-[4-(8-bromooctyloxy)phenyl]benzoic acid (1 g) in 2,6-dimethylmorpholine (3.06 ml) was refluxed for 30 minutes. The reaction mixture was added to a mixture of water and ethyl acetate and adjusted to pH 2.0 with conc. HCl. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 4-[4-[8-(2,6-dimethylmorpholin-4-yl)octyloxy]phenyl]benzoic acid hydrochloride (0.95 g).

reactant | 4-[4-(8-bromooctyloxy)phenyl]benzoic acid | 1 g | BrCCCCCCCCOC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C21H25BrO3
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | HCl | Cl | ClH
reactant | 2,6-dimethylmorpholine | 3.06 ml | CC1CNCC(O1)C | C6H13NO
product | 4-[4-[8-(2,6-dimethylmorpholin-4-yl)octyloxy]phenyl]benzoic acid hydrochloride | 0.95 g | Cl.CC1CN(CC(O1)C)CCCCCCCCOC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C27H37NO4.ClH/c1-21-19-28(20-22(2)32-21)17-7-5-3-4-6-8-18-31-26-15-13-24(14-16-26)23-9-11-25(12-10-23)27(29)30;/h9-16,21-22H,3-8,17-20H2,1-2H3,(H,29,30);1H
